US07250442B2
3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-pyridin-3-yl-1,3-dihydro-indol-2-one
Combine 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (0.622 g, 1.03 mmol), pyridine-3-boronic acid (0.254 g, 2.07 mmol), copper (II) acetate (0.187 g, 1.03 mmol), triethylamine (0.29 mL, 2.07 mmol), 4 angstrom molecular sieves, and dichloromethane (15 mL). Stir at room temperature overnight under ambient atmosphere. Filter the reaction through Celite. Elute through a column of silica gel with 50% dichloromethane in hexanes. Dissolve the resulting compound (0.103 g, 0.152 mmol), in THF (4 mL). Add a solution of tetrabutylammonium fluoride (1.0M) in THF (0.40 mL). Stir for 1 h. Add 1N aqueous HCl(10 mL), water (40 mL), and ethyl acetate (50 mL). Separate the layers and concentrate the organic layer in vacuo. Chromatograph on silica gel eluting with ethyl acetate to give 0.036 g (8%) of the title compound: mass spectrum (ion spray): m/z=451 (M+1); 1H NMR(DMSO-d6): δ8.70 (d, 1H), 8.65 (dd, 1H), 8.25 (s, 2H), 7.98-7.94 (m, 1H), 7.62-7.59 (m, 1H), 7.34 (d, 1H), 7.25 (td, 1H), 7.14 (td, 1H), 6.84 (d, 1H), 6.75 (s, 4H), 2.07 (s, 12H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 1.03 mmol, 0.622 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | pyridine-3-boronic acid | 2.07 mmol, 0.254 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | triethylamine | 2.07 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 1N, 10 mL | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.40 mL | C1CCOC1 | C4H8O
catalyst | copper (II) acetate | 1.03 mmol, 0.187 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 40 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-pyridin-3-yl-1,3-dihydro-indol-2-one | 0.036 g, 8% | OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)C=1C=NC=CC1)=O)C1=CC(=C(C(=C1)C)O)C)C | C29H26N2O3
